US03974165
Ethyl 3,3-dicarbethoxy-4-(2-nitrophenyl)butyrate, 1a (R2 = R3 = H).
A 500 ml. Morton flask equipped with a condenser, stirrer, and dropping funnel was flame dried and charged with NaH (11.9 g - 61% dispersion in mineral oil; 0.3 mole) and 150 ml. of 10% DMF in benzene. Triethyl 1,1,2-ethanetricarboxylate (73.9 g; 0.3 mole) was then added with vigorous stirring over a one hour period. After stirring at room temperature for 0.5 hour, there was then added as rapidly as possible o-nitrobenzyl chloride (51.5 g; 0.3 mole). The resulting reaction mixture was heated at reflux for 23 hours. After cooling, insoluble material was removed by filtration (supercel). Water was added to the filtrate followed by aqueous HCl to acidify the aqueous layer. Extraction with ether followed. The combined ethereal extracts were then washed twice with water, once with brine, dried over Na2SO4, filtered and rendered free of solvent in vacuo. The viscous oil so obtained was dissolved in acetonitrile and washed with n-pentane to remove the mineral oil. Removal of the acetonitrile afforded the crude product. The IR (infrared) and NMR (nuclear magnetic resonance) spectra were consistent with the structure and this material was used directly in the next step without further purification.

reactant | NaH | 0.3 mole | [H-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Triethyl 1,1,2-ethanetricarboxylate | 0.3 mole, 73.9 g | C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C11H18O6
reactant | o-nitrobenzyl chloride | 0.3 mole, 51.5 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl 3,3-dicarbethoxy-4-(2-nitrophenyl)butyrate | C(=O)(OCC)C(CC(=O)OCC)(CC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C18H23NO8
